* \\wsl.localhost\Ubuntu\home\swastim01\CMOS_Ring_Oscillator\Ring_Oscillator.asc
XX1 N002 N003 cmos_symbol
XX2 N003 N004 cmos_symbol
XX3 N004 N005 cmos_symbol
XX4 N005 N006 cmos_symbol
XX5 N006 N007 cmos_symbol
XX6 N007 N008 cmos_symbol
XX7 N008 N009 cmos_symbol
XX8 N001 N002 cmos_symbol
XX9 N009 N010 cmos_symbol
XX10 osc N001 cmos_symbol
XX11 N010 osc cmos_symbol

* block symbol definitions
.subckt cmos_symbol IN OUT
M1 VDD IN OUT VDD P_50n l=50n w=1u
M2 OUT IN 0 0 N_50n l=50n w=500n
VDD VDD 0 1
.include BSIM4_models.txt
.ends cmos_symbol

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\swast\OneDrive\Dokumen\LTspiceXVII\lib\cmp\standard.mos
.ic v(osc)=1
.include BSIM4_models.txt
.tran 2n
.backanno
.end
